US04940710
7-(3-Ethenyl-1-piperazinyl)-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid
A mixture of 1.2 g of 1-ethyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid, 1.9 g of 3-ethenylpiperazine and 15 ml of pyridine is heated at 100° C. in a pressure bottle for 3 hours, then cooled and evaporated. The residue is purified by silica gel flash chromatography, eluting with chloroform:methanol:water:triethylamine (9:0.5:0.02:0.02), giving 200 mg of the desired product.

reactant | 1-ethyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 1.2 g | C(C)N1C=C(C(C2=CC(=C(C=C12)F)F)=O)C(=O)O | C12H9F2NO3
reactant | 3-ethenylpiperazine | 1.9 g | C(=C)C1CNCCN1 | C6H12N2
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | 7-(3-Ethenyl-1-piperazinyl)-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 200 mg | C(=C)C1CN(CCN1)C1=C(C=C2C(C(=CN(C2=C1)CC)C(=O)O)=O)F | C18H20FN3O3
